US04931436
11-[[3-[2-[(Cyclopentyl)methylamino]ethyl]-1-piperidinyl]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one-hydrochloride
Prepared analogously to Example 1 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 3-[2-[(cyclopentyl)methylamino]ethyl]piperidine in a yield of 54% of theory. Colourless crystals, m.p. 244°-246° C. (ethanol), Rf 0.31 (Merck DC ready made TLC plates, silica gel 60 F254 ; eluant: dichloromethane/methanol/conc. ammonia 90/10/1, v/v/v).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 3-[2-[(cyclopentyl)methylamino]ethyl]piperidine | C1(CCCC1)CNCCC1CNCCC1 | C13H26N2
reactant | ethanol | C(C)O | C2H6O
solvent | dichloromethane methanol | ClCCl.CO
product | 11-[[3-[2-[(Cyclopentyl)methylamino]ethyl]-1-piperidinyl]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one-hydrochloride | yield of 54% | Cl.C1(CCCC1)CNCCC1CN(CCC1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | InChI=1S/C26H33N5O2.ClH/c32-25-21-10-3-4-12-23(21)31(24-22(29-25)11-5-14-28-24)26(33)30-16-6-9-20(18-30)13-15-27-17-19-7-1-2-8-19;/h3-5,10-12,14,19-20,27H,1-2,6-9,13,15-18H2,(H,29,32);1H
